Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
tramadol / tramadol / colchicine
 
Attending: ___
 
Chief Complaint:
right lower extremity leg wound
 
Major Surgical or Invasive Procedure:
split thickness skin graft to RLE defect.
 
History of Present Illness:
___ year old male who has been followed for a calf wound 
following fall c/b calf hematoma a few months ago.  The patient 
has, most recently, managed the wound with a wound VAC.  He is 
here today for a skin graft to the area.

 
Past Medical History:
RIGHT IT FRACTURE                                               
BENIGN PROSTATIC HYPERTROPHY                                    
ATRIAL FIBRILLATION                                             
AFLUTTER                                                        
CHRONIC KIDNEY DISEASE                                          
HYPERTENSION  
.
PSH:  DEBRIDEMENT AND WASHOUT OF RIGHT LEG HEMATOMA, VAC    
___
PLACEMENT                                                       
___  
RIGHT LOWER LEG WOUND DEBRIDEMENT AND WASHOUT         ___
___                                                         
IM NAILING RIGHT IT HIP FRACTURE                      ___
___                                                       
KNEE SURGERY                                                    
b/l knee replacements         

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Physical exam per Post operative check ___:
Vitals:
97.7     104 / 67         61         18         96 RA 
Gen: AAOx3 NAD comfortable
CV: NRRR
Resp: Breathing comfortably RA
Abd: Soft, benign
RLE: wrapped with ACE, vac holding suction with scant output;
neurovascularly in tact

 
Pertinent Results:
ADMISSION LABS:
___ 06:00AM BLOOD WBC-4.3 RBC-3.71* Hgb-10.5* Hct-33.6* 
MCV-91 MCH-28.3 MCHC-31.3* RDW-15.9* RDWSD-52.3* Plt ___
___ 06:00AM BLOOD ___ PTT-30.7 ___
___ 06:00AM BLOOD Glucose-140* UreaN-12 Creat-0.6 Na-140 
K-5.0 Cl-102 HCO3-23 AnGap-15
___ 06:00AM BLOOD Calcium-8.9 Phos-3.6 Mg-1.8
.
___ 09:34AM BLOOD ___
___ 10:08AM BLOOD ___
___ 07:22AM BLOOD ___ PTT-37.4* ___
___ 10:30AM BLOOD ___
 
Brief Hospital Course:
The patient was admitted to the Plastic surgery service on 
___ s/p split thickness skin graft to RLE wound defect.  He 
tolerated the procedure well, was recovered in PACU and then 
transferred to floor.  A wound vac dressing was maintained over 
skin graft site for 7 days and RLE was immobilized in a soft 
splint to keep foot dorsiflexed and prevent calf muscle 
movement.  Patient was TDWB to RLE for transfers and walking but 
experienced difficulty in maintaining this as evaluated by 
Physical Therapy so rehab was recommended after hospitalization. 
 Nutrition followed patient and recommended supplemental shakes 
and multivitamin to aide with healing.  Pain was treated with 
PRN oxycodone which provided good pain relief for the patient.  
Home warfarin was restarted on POD#2.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS for BPH 
2. Verapamil SR 180 mg PO Q24H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Multivitamins W/minerals 1 TAB PO DAILY  
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*15 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line  
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
7.  Warfarin 6 mg PO DAILY16  
8.  Tamsulosin 0.4 mg PO QHS for BPH  
9.  Verapamil SR 180 mg PO Q24H  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right leg wound defect

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
-You should continue taking your current medication. 
-Elevate your right leg as much as possible
-You may shower but you must cover your your skin graft site 
with plastic wrap so it does not get wet.
- If your right leg graft site or donor site begins to worsen 
after discharge with an acute change in swelling or pain, please 
call Dr. ___, to report this.  
 - Your right thigh skin graft DONOR site should be dressed 
every 3 days with an adaptic covered with a tegaderm dressing.
 - Your right skin graft/repair site will be dressed with a 
xeroform dressing to graft area, fluffed gauzes covered with 
kerlix and then ace wrap daily.  
.
Activity:
- Do not bear full weight on your right leg.  You are to be 
'touch down weight bear' only.
.
Medications:
 1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .
 2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.
 3. Take prescription pain medications for pain not relieved by 
tylenol.
 4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.
 5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
6. Please avoid medications such as aspirin, motrin, advil, 
ibuprofen, etc (NSAIDS) temporarily during your healing.  You 
may ask your surgeon when you may restart these medications at 
your follow up visit.
.
 Call the office IMMEDIATELY if you have any of the following:
 1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).
 2. A large amount of bleeding from the incision(s) or drain(s).
 3. Fever greater than 101.5 oF
 4. Severe pain NOT relieved by your medication.
 .
 Return to the ER if: 
 * If you are vomiting and cannot keep in fluids or your 
medications. 
 * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness,swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.
 * Any serious change in your symptoms, or any new symptoms that 
concern you.
 
Followup Instructions:
___